US06858638B2
1-Acetyl-5-benzyloxy-1H-indazole can be obtained in the following way: 0.8 ml of acetic anhydride is run into a solution of 500 mg of 4-benzyloxy-2-methylaniline in 3 ml of toluene and the reaction medium is heated at a temperature in the region of 90° C. for 1 hour. 0.55 ml of tert-butyl nitrite is run in dropwise into this solution at approximately 90° C. Heating is continued for 1 hour 30 minutes and then the reaction medium is cooled to a temperature in the region of 20° C. and concentrated to dryness under reduced pressure. The solid residue is taken up with 5 ml of chloroform and the organic phase is washed with 4 ml of a 5% aqueous potassium carbonate solution, dried over magnesium sulfate, filtered and concentrated by evaporation under reduced pressure. The solid thus obtained is purified by chromatography on a silica column with a dichloromethane/cyclohexane (9/1 by volume) mixture as eluent. 467 mg of 1-acetyl-5-benzyloxy-1H-indazole are thus obtained in the form of a brown powder (Rf=0.54, silica gel thin layer chromatography, eluent: cyclohexane/dichloromethane (1/9 by volume)).

reactant | acetic anhydride | 0.8 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-benzyloxy-2-methylaniline | 500 mg | C(C1=CC=CC=C1)OC1=CC(=C(N)C=C1)C | C14H15NO
reactant | tert-butyl nitrite | 0.55 ml | N(=O)OC(C)(C)C | C4H9NO2
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | 1-acetyl-5-benzyloxy-1H-indazole | 467 mg | C(C)(=O)N1N=CC2=CC(=CC=C12)OCC1=CC=CC=C1 | C16H14N2O2
